US07598243B2
tert-Butyl 4-[4-fluoro-3-(methoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate was synthesized as described for INTERMEDIATE 32 using tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (prepared according to Eastwood, P. R. Tetrahedron Lett., 41, 19, 2000, 3705-3708) and methyl 5-bromo-2-fluorobenzoate as starting material and PdCl2dppf.CH2Cl2 as a catalyst.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | methyl 5-bromo-2-fluorobenzoate | BrC=1C=CC(=C(C(=O)OC)C1)F | C8H6BrFO2
catalyst | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-[4-fluoro-3-(methoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | FC1=C(C=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H22FNO4
